US08026257B2
tert-Butyl 4-(((3-methyl-5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate.
tert-Butyl 4-phenyl-4-(((5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)methoxy)methyl)piperidine-1-carboxylate (97 mg, 0.16 mmol) was dissolved in dry tetrahydrofuran (3 mL) and stirred at room temperature for 15 min. The stirred mixture was cooled to −78° C. and treated with a solution of tert-butyllithium (1.7 M in pentane, 190 μL, 0.33 mmol). The reaction was gradually warmed to −20° C. over 1 h, cooled to −78° C. and treated with iodomethane (10 μL, 0.19 mmol). The reaction was warmed to 0° C. over several hours then treated with saturated ammonium chloride. The reaction was diluted with ethyl acetate. The layers were separated and the organic layer washed with brine (2×), dried over sodium sulfate, filtered and concentrated to afford 100 mg (quant.) as a clear oil. LC/MS (HPLC method 1): tR=3.70 min, 634.26(MH)+.

reactant | tert-Butyl 4-phenyl-4-(((5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)methoxy)methyl)piperidine-1-carboxylate | 0.16 mmol, 97 mg | C1(=CC=CC=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)COCC1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)C(F)(F)F | C32H44F3N3O4Si
reactant | tert-butyllithium | 0.33 mmol, 1.7 M, 190 μL | C(C)(C)(C)[Li]
reactant | iodomethane | 0.19 mmol, 10 μL | IC | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 4-(((3-methyl-5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | CC=1N(N=C2C(=CC(=CC12)C(F)(F)F)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)COCC[Si](C)(C)C | C33H46F3N3O4Si
